US04426388
To a stirred solution of 5-hydroxy-2-benzothiazolesulfonamide (7.0 g., 0.03 mole), triethylamine (4.2 ml., 0.03 mole) and 4-dimethylaminopyridine (200 mg., catalyst) in dimethylformamide (25 ml.) is added 2,2-dimethylpropionic anhydride (6.2 ml., 0.03 mole). The reaction mixture is stirred for 11/2 hours, poured into ice water, acidified with hydrochloric acid and extracted with ether. The organic extract is washed with water, brine and dried over magnesium sulfate. The ether is distilled at reduced pressure and the residue is crystallized from toluene to give 2-sulfamoyl-5-benzothiazolyl 2,2-dimethylpropionate.

reactant | 5-hydroxy-2-benzothiazolesulfonamide | 0.03 mole, 7.0 g | OC=1C=CC2=C(N=C(S2)S(=O)(=O)N)C1 | C7H6N2O3S2
reactant | triethylamine | 0.03 mole, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethylpropionic anhydride | 0.03 mole, 6.2 ml | CC(C(=O)OC(C(C)(C)C)=O)(C)C | C10H18O3
reactant | hydrochloric acid | Cl | ClH
catalyst | 4-dimethylaminopyridine | 200 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-sulfamoyl-5-benzothiazolyl 2,2-dimethylpropionate | CC(C(=O)OC=1C=CC2=C(N=C(S2)S(N)(=O)=O)C1)(C)C | C12H14N2O4S2
